* C:\Main Engineering\Engineering\Project Genesis EE Notes\ADCS\Magnetourqers\Magnetourqer.asc
* Generated by LTspice 24.1.10 for Windows.
L1 N001 0 50m
V1 N002 0 PULSE(0 14 0 10u 10u 5m 10m)
R1 N002 N001 20
.tran 50m
.backanno
.end
